US07074865B2
A) Allyl(N,N-diallylamino)boron chloride
A solution of allyltributyltin (62.2 g, 0.19 mol) in 50 mL of hexane was added dropwise to a solution of BCl3 (24.8 g, 0.21 mol) in 120 mL of hexane at −78° C. After the reaction mixture was stirred at −78° C. for 1 hour, it was allowed to warm to 25° C. for 2 hours followed by recooling to −78° C. Then diallylamine (23.5 mL, 0.19 mol) was added dropwise followed by triethylamine (26.7 mL, 0.19 mol). The mixture was stirred for 12 hours while it slowly warmed to 25° C. The solvent was removed under reduced pressure and the product (33.1 g, 95 percent) was obtained by distillation (bp=38° C. at 0.1 torr).

reactant | allyltributyltin | 0.19 mol, 62.2 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | BCl3 | 0.21 mol, 24.8 g | B(Cl)(Cl)Cl | BCl3
reactant | diallylamine | 0.19 mol, 23.5 mL | C(C=C)NCC=C | C6H11N
reactant | triethylamine | 0.19 mol, 26.7 mL | C(C)N(CC)CC | C6H15N
solvent | hexane | 50 mL | CCCCCC | C6H14
solvent | hexane | 120 mL | CCCCCC | C6H14
product | Allyl(N,N-diallylamino)boron chloride | 33.1 g, 95 percent | C(C=C)B(N(CC=C)CC=C)Cl | C9H15BClN
